US03948928
1,2-Benzisoxazole-3-acetamidine hydrochloride
A mixture of 1,2-benzisoxazole-3-acetonitrile (0.34 g) and aluminum chloride (0.54 g) was melted at 90° to 100°C, while dry ammonia gas was passed through thereto for 10 minutes. The reaction mixture was dissolved in aqueous ethanolic hydrochloric acid under cooling and then the solvent was distilled off. The residue was dissolved in a small amount of ethanol-chloroform and subjected to silica gel column chromatography and eluted with 10 % methanol-chloroform. The eluates were collected and recrystallized from ethanol to give the desired compound (0.08 g). m.p. 209° to 212°C.

reactant | 1,2-benzisoxazole-3-acetonitrile | 0.34 g | O1N=C(C2=C1C=CC=C2)CC#N | C9H6N2O
reactant | aluminum chloride | 0.54 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ammonia | N | H3N
solvent | hydrochloric acid | Cl | ClH
product | 1,2-Benzisoxazole-3-acetamidine hydrochloride | 0.08 g | Cl.O1N=C(C2=C1C=CC=C2)CC(=N)N | InChI=1S/C9H9N3O.ClH/c10-9(11)5-7-6-3-1-2-4-8(6)13-12-7;/h1-4H,5H2,(H3,10,11);1H
